US09328096B2
5-(6-acetamidopyridin-2-yl)-2-chloro-N-(3-cyano-1-phenyl-1H-pyrazol-5-yl)benzamide
To a solution of 2-chloro-N-(3-cyano-1-phenyl-1H-pyrazol-5-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide (Preparation 7, 0.5 mmol) in dioxane (5 mL) was added N-(6-bromopyridin-2-yl)acetamide (118 mg, 0.55 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (41 mg, 0.05 mmol), sodium carbonate (183 mg, 1.72 mmol) and water (1 mL). The reaction was heated to 100° C. for 18 hours. The reaction was allowed to cool to room temperature and diluted with ethyl acetate (10 mL) and water (10 mL). The layers were separated and the aqueous phase extracted with ethyl acetate (3×10 mL). The combined organic extracts were dried over sodium sulphate and concentrated in vacuo. The residue was purified by silica gel column chromatography eluting with 40-50% ethyl acetate in heptanes to afford the title compound as a yellow solid (104 mg, 46%).

reactant | 2-chloro-N-(3-cyano-1-phenyl-1H-pyrazol-5-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide | 0.5 mmol | ClC1=C(C(=O)NC2=CC(=NN2C2=CC=CC=C2)C#N)C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C23H22BClN4O3
reactant | N-(6-bromopyridin-2-yl)acetamide | 0.55 mmol, 118 mg | BrC1=CC=CC(=N1)NC(C)=O | C7H7BrN2O
reactant | sodium carbonate | 1.72 mmol, 183 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 10 mL | O | H2O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.05 mmol, 41 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 1 mL | O | H2O
product | 5-(6-acetamidopyridin-2-yl)-2-chloro-N-(3-cyano-1-phenyl-1H-pyrazol-5-yl)benzamide | 104 mg, 46% | C(C)(=O)NC1=CC=CC(=N1)C=1C=CC(=C(C(=O)NC2=CC(=NN2C2=CC=CC=C2)C#N)C1)Cl | C24H17ClN6O2
